US05223498
Reaction of 6-methyl-2-morpholinoaniline (8.75 g) with methyl isothiocyanate (4.7 g) in dichloromethane (50 ml ) at room temperature for four days yielded N-methyl-N-'-(6-methyl-2-morpholinophenyl)thiourea (m.p. 182°-183° C.).

reactant | 6-methyl-2-morpholinoaniline | 8.75 g | CC1=CC=CC(=C1N)N1CCOCC1 | C11H16N2O
reactant | methyl isothiocyanate | 4.7 g | CN=C=S | C2H3NS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-methyl-N-'-(6-methyl-2-morpholinophenyl)thiourea | CNC(=S)NC1=C(C=CC=C1C)N1CCOCC1 | C13H19N3OS
